US08802673B2
To a stirred solution of tert-butyl (RS)-2-(3-chloro-4-(diphenylmethyleneamino)phenyl)morpholine-4-carboxylate (0.63 g) in methanol (8 ml) were added sodium acetate (325 mg) and hydroxylamine hydrochloride (202 mg). The reaction mixture was stirred at room tempearture for 16 hours and then at 60° C. for 1 hour. The reaction mixture was then cooled to room temperature and concentrated in vacuo. The residue was purified by flash column chromatography (silica gel; gradient: 0% to 70% EtOAc in hexanes) to afford tert-butyl (RS)-2-(4-amino-3-chlorophenyl)morpholine-4-carboxylate (345 mg, 84%) as a white solid. MS (ISP): 337.2 ([{37Cl}M+Na]+), 335.1 ([{35Cl}M+Na]+), 314.9 ([{37Cl}M+H]+), 313.0 ([{35Cl}M+H]+), 259.1 ([{37Cl}M+H—C4H8]+), 257.1 ([{35Cl}M+H—C4H8]+), 215.3 ([{37Cl}M+H—C4H8—CO2]+), 213.0 ([{35Cl}M+H—C4H8—CO2]+).

reactant | tert-butyl (RS)-2-(3-chloro-4-(diphenylmethyleneamino)phenyl)morpholine-4-carboxylate | 0.63 g | ClC=1C=C(C=CC1N=C(C1=CC=CC=C1)C1=CC=CC=C1)C1CN(CCO1)C(=O)OC(C)(C)C | C28H29ClN2O3
reactant | sodium acetate | 325 mg | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 202 mg | Cl.NO
solvent | methanol | 8 ml | CO | CH4O
product | tert-butyl (RS)-2-(4-amino-3-chlorophenyl)morpholine-4-carboxylate | 345 mg, 84% | NC1=C(C=C(C=C1)C1CN(CCO1)C(=O)OC(C)(C)C)Cl | C15H21ClN2O3
